US05561128
6-[3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-7-methoxy-1-tetralone
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (0.78 g, 3.6 mmol), K2CO3 (0.60 g, 4.1 mmol), KI (100 mg), 6-(3-chloropropoxy)-7-methoxy-1-tetralone (0.87 g, 3.2 mmol), and acetonitrile (50 ml) was stirred at reflux under nitrogen for 17 hours. The cooled reaction was poured into 100 ml of water and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate extract was washed with brine, dried with MgSO4 and concentrated to yield 1.7 g of a brown oil. The oil was purified by preparative HPLC (Waters Associates Prep LC/system 500) to afford 1.0 g of a light brown solid. This was combined with an additional sample (2.3 g total) and recrystallization from ethanol yielded 1.7 g. A subsequent recrystallization from ethanol gave 1.25 g (36%) of 6-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-7-methoxy-1-tetralone as a beige powder, m.p.=129°-131 C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 3.6 mmol, 0.78 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 4.1 mmol, 0.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-(3-chloropropoxy)-7-methoxy-1-tetralone | 3.2 mmol, 0.87 g | ClCCCOC=1C=C2CCCC(C2=CC1OC)=O | C14H17ClO3
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | water | 100 ml | O | H2O
product | 3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxyl-7-methoxy-1-tetralone | 1.7 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2C(C3=CC(=CC=C3CC2)OC)=O)C=C1 | C26H29FN2O4
